US07151097B2
Preparation of Intermediate 1-(2-Chloro-phenyl)-5-(4-chloro-phenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid (2,2-difluoro-propyl)-(2-hydroxy-ethyl)-amide (I-3d)
A stirred mixture of 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester I-3c (15 g, 40 mmol) and 2-(2,2-difluoro-propylamino)-ethanol (16.5 g, 120 mmol) were heated at 125° C. for 18 hours. The reaction solution was cooled, diluted into ethyl acetate, washed with 1 N aq. HCl, brine, dried (Na2SO4) and concentrated in vacuo. The resulting oil was chromatographed on silica gel (20% to 40% ethyl acetate/hexanes) to afford the title compound (I-3d) as an oil, 10 g.

reactant | 1-(2-chloro-phenyl)-5-(4-chloro-phenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid ethyl ester | 40 mmol, 15 g | C(C)OC(=O)C1=NN(C(=C1O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl | C18H14Cl2N2O3
reactant | 2-(2,2-difluoro-propylamino)-ethanol | 120 mmol, 16.5 g | FC(CNCCO)(C)F | C5H11F2NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Chloro-phenyl)-5-(4-chloro-phenyl)-4-hydroxy-1H-pyrazole-3-carboxylic acid (2,2-difluoro-propyl)-(2-hydroxy-ethyl)-amide | FC(CN(C(=O)C1=NN(C(=C1O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)Cl)CCO)(C)F | C21H19Cl2F2N3O3
